US05679695
1-[(4-Chlorophenyl)thio]-2-nitrobenzene
This compound was synthesized by the model procedure from the following compounds: 4-Chlorothiophenol (15.0 g, 0.10 mol), Na2CO3 (15.50 g, 0.15 mol), and 2-chloro-nitrobenzene (16.3 g, 0.10 mol). The crude product, mp 91°-93° C., was recrystallized from alcohol to afford 25.0 g (91%) of yellow crystals, mp 94°-95° C. (lit. mp 94° C.). IR(KBr) 3050 (C--H), 1512 and 1336 cm-1 (NO2); 1H NMR (CDCl3) δ 8.2 (m, 1 H) and 7.45 (m, 7 H).

reactant | 4-Chlorothiophenol | 0.10 mol, 15.0 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | Na2CO3 | 0.15 mol, 15.50 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-chloro-nitrobenzene | 0.10 mol, 16.3 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
product | 1-[(4-Chlorophenyl)thio]-2-nitrobenzene | 25.0 g, 91% | ClC1=CC=C(C=C1)SC1=C(C=CC=C1)[N+](=O)[O-] | C12H8ClNO2S
